US08865736B2
4-Chloromethyl-2-p-tolyl-thiazole (Representative Example)
To a solution of 1,3 dichloroacetone (0.84 g, 6.62 mmol) in toluene (5 ml) was added 4-methylthiobenzamide (0.50 g, 3.31 mmol) and the reaction mixture was heated at 120° C. for 1 h. After the completion of the reaction mixture (TLC monitoring), the reaction mixture was evaporated to dryness under reduced pressure and the residue was purified over silica gel (230-400 M, 15% EtOAc-Hexane) to get the desired product (0.49 g, 67%). The other derivatives were also prepared by the same general method.

reactant | 1,3 dichloroacetone | 6.62 mmol, 0.84 g | ClCC(=O)CCl | C3H4Cl2O
reactant | 4-methylthiobenzamide | 3.31 mmol, 0.50 g | CC1=CC=C(C(=S)N)C=C1 | C8H9NS
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Chloromethyl-2-p-tolyl-thiazole | 0.49 g, 67% | ClCC=1N=C(SC1)C1=CC=C(C=C1)C | C11H10ClNS
